US04631147
Synthesis of 1-ethyl-2,2,7,7-tetramethylcycloheptan-1-ol:
A mixed solution of ethyl bromide (33.30 g, 0.40 moles)/dried diethyl ether (40 ml) was dropped into a mixture of lithium (4.30 g, 0.62 moles)/dried diethyl ether (25 ml) in 2 hours while stirring at -30° C., followed by further adding dried diethyl ether (40 ml) and raising the temperature to 0° C. The mixture was subjected to separation by filtration. The resulting filtrate was dropped into a mixed solution of 2,2,7,7-tetramethylcycloheptanone (15.00 g, 0.09 moles)/dried diethyl ether (40 ml) in 30 minutes while stirring at 0° C. The mixture was stirred at 0° C. for 2 hours. The resulting reaction mixture was treated in the same manner as in Example 1 to obtain 13.50 g (yield 76.4%) of the captioned compound. This compound was a colorless transparent liquid having a woody, earthy and patchuli oil-like odor.

reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | lithium | [Li] | Li
reactant | 2,2,7,7-tetramethylcycloheptanone | CC1(C(C(CCCC1)(C)C)=O)C | C11H20O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.09 moles, 40 ml, 15.00 g | C(C)OCC | C4H10O
solvent | diethyl ether | 0.62 moles, 25 ml, 4.30 g | C(C)OCC | C4H10O
solvent | diethyl ether | 0.40 moles, 40 ml, 33.30 g | C(C)OCC | C4H10O
product | 1-ethyl-2,2,7,7-tetramethylcycloheptan-1-ol | 13.50 g, yield 76.4% | C(C)C1(C(CCCCC1(C)C)(C)C)O | C13H26O
